US09102662B2
Preparation of tert-butyl 4-(4-methylpiperazin-1-yl)-2-[(1-methylpiperidin-4-yl)amino]benzoate
tert-Butyl 2-amino-4-(4-methylpiperazin-1-yl)benzoate (1.5 g, 5.15 mmol) was dissolved in dry dioxane (25 mL) under a nitrogen atmosphere. N-methylpiperidone (0.72 g, 6.18 mmol, 1.2 eq) was added, followed by trifluoroacetic acid (1.03 mL, 13.39 mmol, 2.6 eq) and sodium triacetoxyborohydride (1.72 g, 7.73 mmol, 1.5 eq). The mixture was stirred at room temperature for 26 hours. During this time extra portions of N-methylpiperidone (0.5 mL, 0.75 eq) and sodium triacetoxyborohydride (1.72 g, 7.73 mmol, 1.5 eq) were added. A saturated aqueous solution of NaHCO3 was then added and the reaction mixture was concentrated under reduced pressure. 10% ammonium hydroxide was added until pH 10 and the aqueous phase was extracted with dichloromethane. The organic phase was washed with brine, dried over Na2SO4 and evaporated under reduced pressure. After purification by chromatography over silica gel (DCM/MeOH/NH3 7% in MeOH 90:8:2) 1.025 g of title compound were obtained as off-white solid (51% yield).

reactant | tert-Butyl 2-amino-4-(4-methylpiperazin-1-yl)benzoate | 5.15 mmol, 1.5 g | NC1=C(C(=O)OC(C)(C)C)C=CC(=C1)N1CCN(CC1)C | C16H25N3O2
reactant | N-methylpiperidone | 6.18 mmol, 0.72 g, 1.2 eq | CN1C(CCCC1)=O | C6H11NO
reactant | trifluoroacetic acid | 13.39 mmol, 1.03 mL, 2.6 eq | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium triacetoxyborohydride | 7.73 mmol, 1.72 g, 1.5 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | N-methylpiperidone | 0.5 mL, 0.75 eq | CN1C(CCCC1)=O | C6H11NO
reactant | sodium triacetoxyborohydride | 7.73 mmol, 1.72 g, 1.5 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 4-(4-methylpiperazin-1-yl)-2-[(1-methylpiperidin-4-yl)amino]benzoate | 51% yield | CN1CCN(CC1)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC1CCN(CC1)C | C22H36N4O2
